US05247042
(1) 4-(N-4-hydroxybutyl-N-butylamino)benzaldehyde
To a three neck flask fitted with a mechanical stirrer, a thermometer, and a condenser, is added 124 g (1 mole) of 4-fluorobenzaldehyde, 145.3 g (1 mole) of N-butyl-N-4-hydroxybutylamine, 138.2 g (1 mole) of anhydrous potassium carbonate, and dimethylsulfoxide. The mixture is then heated at 95° C. until the reaction is complete. After cooling to room temperature, the solution is poured into a four-fold excess of ice water, and the solid product is collected by filtration and purified by recrystallization from tetrahydrofuran/benzene.

reactant | 4-fluorobenzaldehyde | 1 mole, 124 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | N-butyl-N-4-hydroxybutylamine | 1 mole, 145.3 g | C(CCC)NCCCCO | C8H19NO
reactant | potassium carbonate | 1 mole, 138.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 4-(N-4-hydroxybutyl-N-butylamino)benzaldehyde | OCCCCN(CCCC)C1=CC=C(C=O)C=C1 | C15H23NO2
